US03963706
b. 1-(3-Chlorophenyl)-3-(2-chloro-4-sulphamoylphenyl)-imidazolidin-4-one
2-(3-Chloroanilino)-N-(2-chloro-4-sulphamoylphenyl)-acetamide (18.5 g) were dissolved in ethanol and reacted with paraformaldehyde as before (3.0g) to yield 14.0 g, m.p. 208°-216°C (ethanol).

reactant | 2-(3-Chloroanilino)-N-(2-chloro-4-sulphamoylphenyl)-acetamide | 18.5 g | ClC=1C=C(NCC(=O)NC2=C(C=C(C=C2)S(N)(=O)=O)Cl)C=CC1 | C14H13Cl2N3O3S
reactant | paraformaldehyde | C=O | CH2O
solvent | ethanol | C(C)O | C2H6O
product | 1-(3-Chlorophenyl)-3-(2-chloro-4-sulphamoylphenyl)-imidazolidin-4-one | ClC=1C=C(C=CC1)N1CN(C(C1)=O)C1=C(C=C(C=C1)S(N)(=O)=O)Cl | C15H13Cl2N3O3S
